Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Captopril
 
Attending: ___.
 
Chief Complaint:
BELOW RIGHT KNEE AMPUTATION SITE STUMP INFECTION
 
Major Surgical or Invasive Procedure:
Revision of right below knee amputation

 
Past Medical History:
hypertension, congestive heart failure (EF ___
coronary artery disease, s/p MI , PVD, diabetes type 2, ESRD s/p
renal transplant ___, history of MRSA bacteremia
 
PAST SURGICAL HISTORY: 
___: CABGx3
___: Right common femoral artery to above knee popliteal
with nonreverse greater saphenous vein
___: Left upper arm A-V fistula
___: Left femoral to above popliteal bypass graft with PTFE
___: renal transplant (___)
___: Left common femoral artery to below-knee popliteal 
artery
bypass with polytetrafluorethylene(PTFE)graft.
___: Re-do right femoral to below knee popliteal bypass with
PTFE
___: Right lower extremity arteriogram with balloon 
angioplasty of right common iliac artery and stent placement at 
right common iliac artery
___:  Redo femoral to posterior tibial artery bypass with 
PTFE

 
Social History:
___
Family History:
DM2 - maternal & external, CAD - maternal (both deceased) 
 
Physical Exam:
Physical Exam:
Alert and oriented x 3 
VS:BP 152/61     HR 52       RR 18
Carotids: 2+, no bruits or JVD
Resp: Lungs clear
Abd: Soft, non tender, non distended. Right lower quadrant mass 
palpated. 
Ext: Pulses:      Left  Femoral Palpable,    DP (-) ,___ 
Dopplerable
                  Right Femoral Palpable,    DP X   ,___ X
Left foot warm,  well perfused.  No open areas
Incisions
Right BKA incision site: Dressing clean dry and intact. no 
erythema, no draining. 
 
Pertinent Results:
___ 09:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:20PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:20PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:20PM URINE  HYALINE-4*
___ 09:20PM URINE  MUCOUS-RARE
___ 09:16PM   GLUCOSE-219* UREA N-57* CREAT-1.4*# 
SODIUM-130* POTASSIUM-4.3 CHLORIDE-94* TOTAL CO2-26 ANION GAP-14
___ 09:16PM   estGFR-Using this
___ 09:16PM   CALCIUM-10.0 PHOSPHATE-3.0 MAGNESIUM-2.0
___ 09:16PM   WBC-8.2 RBC-4.76# HGB-13.9*# HCT-40.8# 
MCV-86# MCH-29.2 MCHC-34.1 RDW-15.5
___ 09:16PM   PLT COUNT-193
___ 09:16PM   ___ PTT-33.3 ___
 
Brief Hospital Course:
MR. ___ presented to ___ on ___ to be admitted 
for continued drainage and pain from his amputation site for an 
anticipated revision of his R BKA the next day. On ___, 
He presented to pre-op and was evaluated by anaesthesia and then 
taken to the operating room for the procedure. There were no 
adverse events in the operating room; please see the operative 
note for details. 
Mr. ___ was extubated, taken to the PACU until stable, then 
transferred to the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with Dilaudid IV and 
then transitioned to Oxycodone PO. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: Upon arival, Mr. ___ was initially kept NPO 
after midnight.  After the procedure he was on bed rest and 
restarted regular diet. Patient's intake and output were closely 
monitored. Initially, he required a straight catheter in order 
to void but was able to void on his own by the time of 
discharge. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. Upon admission he was put 
on broad spectrum antibiotics. During the procedure, cultures 
from the wound sample grew GPCs in pairs. His antibiotics was 
then switch to bactrim and he was discharged with 6 weeks worth. 

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin. He also 
continued his Warfarin and put back on his home medications. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, voiding without assistance, and pain was well controlled.  
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 2.5 mg PO BID 
2. Metoprolol Tartrate 50 mg PO BID 
3. Warfarin 4 mg PO DAYS (___) 
4. Warfarin 3 mg PO DAYS (TH,FR,SA) 
5. Atorvastatin 40 mg PO DAILY 
6. Mycophenolate Mofetil 250 mg PO TID 
7. Tacrolimus 0.5 mg PO Q12H 
8. Levothyroxine Sodium 12.5 mcg PO DAILY 
9. Torsemide 40 mg PO QAM 
10. Torsemide 20 mg PO DAILY 
11. Aspirin 81 mg PO DAILY 
12. Amlodipine 10 mg PO DAILY 
13. Spironolactone 25 mg PO DAILY 
14. Citalopram 20 mg PO DAILY 
15. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Citalopram 20 mg PO DAILY 
5. Levothyroxine Sodium 12.5 mcg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Mycophenolate Mofetil 250 mg PO TID 
8. Spironolactone 25 mg PO DAILY 
9. Tacrolimus 0.5 mg PO Q12H 
10. Torsemide 40 mg PO QAM 
11. Torsemide 20 mg PO DAILY 
12. Warfarin 4 mg PO DAYS (___) 
13. Warfarin 3 mg PO DAYS (TH,FR,SA) 
14. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN for pain 
RX *oxycodone 5 mg 1 - 2 tablet(s) by mouth every six (6) hours 
Disp #*65 Tablet Refills:*0
15. Dronabinol 2.5 mg PO BID 
16. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
17. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 6 Weeks 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*84 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Peripheral Vascular Disease, BELOW RIGHT KNEE AMPUTATION SITE 
STUMP INFECTION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
ACTIVITY: 
•On the side of your amputation you are non weight bearing for 
___ weeks. 
•You should keep this amputation site elevated when ever 
possible. 
•You may use the opposite foot for transfers and pivots.
•No driving until cleared by your Surgeon.
•No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
•You may shower when you get home
•No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 
WOUND CARE:
•Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
•When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.
CAUTIONS:
•If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
•Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
•Bleeding, redness of, or drainage from your foot wound
•New pain, numbness or discoloration of the skin on the effected 
foot
•Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

 
Followup Instructions:
___